US07470803B2
(a) Synthesis of 4-(4-trifluoromethylbenzyl sulfanyl)phenol
10 ml of methanol solution containing 2.8 g of 4-mercaptophenol was dropped with ice cooling into 20 ml of methanol solution containing 1.4 g of potassium hydroxide, followed by further stirring for 30 minutes. To this reaction mixture, 10 ml of methanol solution containing 5.0 g of 4-trifluoromethyl benzyl bromide was added with ice cooling, followed by stirring for 18 hours at room temperature. After concentrating the reaction mixture, ethyl acetate and water were added, followed by fractionating an organic layer. After the organic layer was dried with anhydrous magnesium sulfate, it was concentrated. The concentrate was purified by silica gel column chromatography (eluant: n-hexane/ethyl acetate/gradation) to produce 2.23 g of the desired product.

reactant | 4-mercaptophenol | 2.8 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | potassium hydroxide | 1.4 g | [OH-].[K+]
reactant | 4-trifluoromethyl benzyl bromide | 5.0 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4-trifluoromethylbenzyl sulfanyl)phenol | 2.23 g | FC(C1=CC=C(CSC2=CC=C(C=C2)O)C=C1)(F)F | C14H11F3OS
